US09108936B2
To a stirred solution of 2-cyclopropyl-6-methyl-4-morpholin-4-yl-benzoic acid ethyl ester (0.54 g, 1.86 mmol) in ethylene glycol (10 ml) is added solid potassium hydroxide (0.42 g, 7.47 mmol) and the mixture is stirred at 150-160° C. for 16 h. After completion of the reaction, the mixture is diluted with water (30 ml) and extracted with ethyl acetate (2×10 ml). The aqueous layer is acidified with 2M HCl to pH 3 and extracted with ethyl acetate (3×30 ml). The combined organic layers are washed with water (3×40 ml), dried over sodium sulfate and concentrated in vacuo yielding 2-cyclopropyl-6-methyl-4-morpholin-4-yl-benzoic acid (0.34 g, 1.3 mmol, 70%).

reactant | 2-cyclopropyl-6-methyl-4-morpholin-4-yl-benzoic acid ethyl ester | 1.86 mmol, 0.54 g | C(C)OC(C1=C(C=C(C=C1C)N1CCOCC1)C1CC1)=O | C17H23NO3
reactant | potassium hydroxide | 7.47 mmol, 0.42 g | [OH-].[K+]
solvent | ethylene glycol | 10 ml | C(CO)O | C2H6O2
solvent | water | 30 ml | O | H2O
product | 2-cyclopropyl-6-methyl-4-morpholin-4-yl-benzoic acid | 1.3 mmol, 0.34 g, 70% | C1(CC1)C1=C(C(=O)O)C(=CC(=C1)N1CCOCC1)C | C15H19NO3
